US05858995
To a solution of 3-acetyl-7-acetylamino-2-methylbenzo[b]furan (2.92 g) in tetrahydrofuran (60 ml) was added a 3M solution of methylmagnesium bromide in diethyl ether (12.7 ml) dropwise with ice cooling. The solution was stirred at ambient temperat ure for 5 hours and to the solution was added aqueous saturated ammonium chloride. Then, the mixture was poured into water and the separated oil was extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel and the obtained oil was crystallized from methanol to give 7-acetylamino-3-(1-hydroxy-1-methylethyl)-2-methylbenzo[b]furan (1.82 g).

reactant | 3-acetyl-7-acetylamino-2-methylbenzo[b]furan | 2.92 g | C(C)(=O)C=1C2=C(OC1C)C(=CC=C2)NC(C)=O | C13H13NO3
reactant | methylmagnesium bromide | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 12.7 ml | C(C)OCC | C4H10O
product | 7-acetylamino-3-(1-hydroxy-1-methylethyl)-2-methylbenzo[b]furan | 1.82 g | C(C)(=O)NC1=CC=CC2=C1OC(=C2C(C)(C)O)C | C14H17NO3
